US05977101
b) 1-BOC-2-(bromomethyl)benzimidazole
NBS (8.43 g, 47.4 mmol) and AIBN (2.1 g, 12.8 mmol) were added to a solution of 1-BOC-2-methylbenzimidazole (10.0 g, 43.1 mmol) in CCl4 (120 mL) at reflux. After 21 h, the reaction was cooled and filtered. The filtrate was concentrated, and the resulting brown oil was chromatographed (silica gel, 15% EtOAc/hexanes) to afford the title compound: 1H NMR (400 MHz, CDCl3) δ 7.94-8.01 (m, 1 H), 7.70-7.75 (m, 1 H), 7.31-7.44 (m, 2 H), 4.96 (s, 2 H), 1.75 (s, 9 H),

reactant | NBS | 47.4 mmol, 8.43 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 12.8 mmol, 2.1 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | 1-BOC-2-methylbenzimidazole | 43.1 mmol, 10.0 g | C(=O)(OC(C)(C)C)N1C(=NC2=C1C=CC=C2)C | C13H16N2O2
solvent | CCl4 | 120 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-BOC-2-(bromomethyl)benzimidazole | C(=O)(OC(C)(C)C)N1C(=NC2=C1C=CC=C2)CBr | C13H15BrN2O2
